US04342764
64.1 g of methyl iodide are added to a solution of 17.6 g of 2-amino-5-methyl-1,3,4-thiadiazole in 350 ml isopropanol. The solution is refluxed for 15 hours. The reaction mixture is then evaporated to dryness, the crystalline evaporation residue is stirred with ethyl acetate and the solvent is filtered off with suction. The crystalline residue is washed, first with ethyl acetate and then with ether, and then dried. 2-Imino-3,5-dimethyl-4-(1,3,4) -thiadiazoline hydroiodide with a melting point of 208° (decomposition) is thus obtained.

reactant | methyl iodide | 64.1 g | CI | CH3I
reactant | 2-amino-5-methyl-1,3,4-thiadiazole | 17.6 g | NC=1SC(=NN1)C | C3H5N3S
solvent | isopropanol | 350 ml | C(C)(C)O | C3H8O
product | 2-Imino-3,5-dimethyl-4-(1,3,4) -thiadiazoline hydroiodide | I.N=C1SC(=NN1C)C | InChI=1S/C4H7N3S.HI/c1-3-6-7(2)4(5)8-3;/h5H,1-2H3;1H
